US08580794B2
tert-butyl 2-((2-chloro-4-sulfamoylphenoxy)methyl)morpholine-4-carboxylate
To a solution of tert-butyl 2-(hydroxymethyl)morpholine-4-carboxylate (0.478 g) in anhydrous N,N-dimethylformamide (5 mL) was added sodium hydride (0.280 g). The mixture was stirred at room temperature for 30 minutes, followed by addition of 3-chloro-4-fluorobenzenesulfonamide (0.419 g). The mixture was stirred at 40° C. overnight. The reaction was quenched with water (10 mL), and the mixture was adjusted to ˜pH 7 and extracted with ethyl acetate. The crude product was purified on a silica gel column eluting with 60% ethyl acetate in hexane to provide the title compound.

reactant | tert-butyl 2-(hydroxymethyl)morpholine-4-carboxylate | 0.478 g | OCC1CN(CCO1)C(=O)OC(C)(C)C | C10H19NO4
reactant | sodium hydride | 0.280 g | [H-].[Na+]
reactant | 3-chloro-4-fluorobenzenesulfonamide | 0.419 g | ClC=1C=C(C=CC1F)S(=O)(=O)N | C6H5ClFNO2S
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-butyl 2-((2-chloro-4-sulfamoylphenoxy)methyl)morpholine-4-carboxylate | ClC1=C(OCC2CN(CCO2)C(=O)OC(C)(C)C)C=CC(=C1)S(N)(=O)=O | C16H23ClN2O6S
